US05763700
1-(3-Acetoxy-2-fluoroprop-1-enyl)-1-(4-difluoromethoxyphenyl)cyclopropane
The method of Example 17 was repeated using acetyl chloride (0.92 ml), 1-(4-difluoromethoxyphenyl)-1-(2-fluoro-3-hydroxyprop-1-enyl)cyclopropane Example 16) (0.49 g), benzene (24 ml) and pyridine (0.2 ml) to yield the title compound (0.55 g, 99%).

reactant | acetyl chloride | 0.92 ml | C(C)(=O)Cl | C2H3ClO
reactant | 1-(4-difluoromethoxyphenyl)-1-(2-fluoro-3-hydroxyprop-1-enyl)cyclopropane | FC(OC1=CC=C(C=C1)C1(CC1)C=C(CO)F)F | C13H13F3O2
reactant | benzene | 24 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3-Acetoxy-2-fluoroprop-1-enyl)-1-(4-difluoromethoxyphenyl)cyclopropane | 0.55 g, 99% | C(C)(=O)OCC(=CC1(CC1)C1=CC=C(C=C1)OC(F)F)F | C15H15F3O3
